US09278985B2
1-Bromo-4-(2,2-diethoxyethoxy)-2-fluorobenzene (11.4 g, 0.037 mol) was dissolved in toluene (78 mL). Polyphosphoric acid (11.9 g) was added and the mixture was heated to reflux for 5 h. The solvent was removed and the residue was diluted with water and ethyl acetate. The organic phase was washed with 2M NaOH solution and then dried over Na2SO4. A mixture of 5-bromo-6-fluorobenzofuran and 5-bromo-4-fluorobenzofuran (4.8 g, 60.3%) were obtained as a mixture after purification via column chromatography.

reactant | 1-Bromo-4-(2,2-diethoxyethoxy)-2-fluorobenzene | 0.037 mol, 11.4 g | BrC1=C(C=C(C=C1)OCC(OCC)OCC)F | C12H16BrFO3
solvent | toluene | 78 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-4-fluorobenzofuran | 4.8 g, 60.3% | BrC=1C=CC2=C(C=CO2)C1F | C8H4BrFO
